US06359134B1
1-(tert-Butoxycarbonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine
To a mixture of 1-(tert-butoxycarbonyl)piperazine (3.72 g), 4-methyl-2-(4-pyridyl) -5-thiazolecarboxylic acid (4.4 g), triethylamine (2.5 g) and HOBt (2.7 g) in DMF (60 ml), was added WSC hydrochloride (4.217 g) under ice-cooling and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated, and to the residue were added dichloromethane and sodium bicarbonate aqueous solution. The organic layer was separated, washed with water and brine, dried and concentrated. The residue was purified with silica gel chromatography (dichloromethane:methanol=50:1) to give colorless crystals of the title compound (6.49 g).

reactant | 1-(tert-butoxycarbonyl)piperazine | 3.72 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-methyl-2-(4-pyridyl) -5-thiazolecarboxylic acid | 4.4 g | CC=1N=C(SC1C(=O)O)C1=CC=NC=C1 | C10H8N2O2S
reactant | HOBt | 2.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 4.217 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
product | 1-(tert-Butoxycarbonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 6.49 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C19H24N4O3S
